US06706725B1
e) (3E,5E)-6-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-2-thienyl]-1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol
In a manner similar to that of Example 6(l), by reaction of 200 mg of (3E,5E)-6-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}-1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol with 700 μL (0.7 mmol) of 1.0 M tetrabutylammonium bromide, the desired product is obtained in the form of white crystals (m.p.=113-114° C.; m=70 mg).

reactant | (3E,5E)-6-{5-[3,4-bis(tert-butyldimethylsilanyloxymethyl)phenoxymethyl]-2-thienyl}-1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol | 200 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(OCC2=CC=C(S2)/C(=C/C=C/C(C(F)(F)F)(O)C(F)(F)F)/CC)C=CC1CO[Si](C)(C)C(C)(C)C | C34H50F6O4SSi2
catalyst | tetrabutylammonium bromide | 0.7 mmol, 1.0 M, 700 μL | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | (3E,5E)-6-[5-(3,4-bis-Hydroxymethyl-phenoxymethyl)-2-thienyl]-1,1,1-trifluoro-2-trifluoromethylocta-3,5-dien-2-ol | OCC=1C=C(OCC2=CC=C(S2)/C(=C/C=C/C(C(F)(F)F)(O)C(F)(F)F)/CC)C=CC1CO | C22H22F6O4S
